US05451584
4-[4-(2-Methoxy-phenyl)-piperazin- 1-yl]-2-phenyl-N-propyl-N-(prop-2-ynyl)-butyramide
A mixture of 4-[4-(2-methoxyphenyl)piperazin-1-yl]-2-phenylbutanoic acid (1.772 g, 5 mmole), triethylamine (1.518 g, 15 mmole), and N,N-bis(2-oxo-3-oxazolidinyl)phosphoramidic chloride (1.527 g, 6 mmole) was stirred in methylene chloride (80 mL) under exclusion of moisture at ambient temperature for 30 minutes, after which N-propylpropargylamine (0.804 g, 6 mmole) was added at once at 0° C. The reaction mixture was stirred at room temperature overnight, washed with water (2×100 mL), dried over magnesium sulfate, filtered, and evaporated to dryness in vacuo. Chromatography on silica gel with methanol/chloroform as eluant, followed by trituration from diethyl ether with addition of ethanolic hydrochloric acid gave 0.25 g of the title compound as the dihydrochloride sesquihydrate, m.p. 172°-4° C.

reactant | 4-[4-(2-methoxyphenyl)piperazin-1-yl]-2-phenylbutanoic acid | 5 mmole, 1.772 g | COC1=C(C=CC=C1)N1CCN(CC1)CCC(C(=O)O)C1=CC=CC=C1 | C21H26N2O3
reactant | triethylamine | 15 mmole, 1.518 g | C(C)N(CC)CC | C6H15N
reactant | N,N-bis(2-oxo-3-oxazolidinyl)phosphoramidic chloride | 6 mmole, 1.527 g | O=C1OCCN1N(P(=O)(Cl)Cl)N1C(OCC1)=O | C6H8Cl2N3O5P
reactant | N-propylpropargylamine | 6 mmole, 0.804 g | C(CC)NCC#C | C6H11N
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
product | 4-[4-(2-Methoxy-phenyl)-piperazin- 1-yl]-2-phenyl-N-propyl-N-(prop-2-ynyl)-butyramide | 0.25 g | COC1=C(C=CC=C1)N1CCN(CC1)CCC(C(=O)N(CC#C)CCC)C1=CC=CC=C1 | C27H35N3O2
